US04435406
31 ml of a 10% solution of m-chloroperbenzoic acid in ethyl acetate were added dropwise with intensive stirring at 0°-5° C. to 6.1 g of 5,7-dihydro-5,5,7,7-tetramethyl-2-[(2-pyridylmethyl)thio]indeno(5,6-d)-imidazol-6(1H)-one, dissolved in 100 ml of methylene chloride, in a 250 ml sulfonation flask equipped with stirrer, thermometer, dropping funnel and calcium chloride tube. After stirring at 0°-5° C. for 3 hours, the mixture was poured into 1 l of methylene chloride, it was washed twice with 250 ml of 2 N soda, then neutral with water, dried over sodium sulfate and evaporated in vacuo. Crystallization of the residue from acetonitrile gave 2.7 g (42.3% of theory) of 5,7-dihydro-5,5,7,7-tetramethyl-2-[(2-pyridylmethyl)sulfinyl]indeno(5,6-d)imidazol-6(1H)-one of melting point 201°-203° C.

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5,7-dihydro-5,5,7,7-tetramethyl-2-[(2-pyridylmethyl)thio]indeno(5,6-d)-imidazol-6(1H)-one | 6.1 g | CC1(C(C(C2=CC=3NC(=NC3C=C12)SCC1=NC=CC=C1)(C)C)=O)C | C20H21N3OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
product | 5,7-dihydro-5,5,7,7-tetramethyl-2-[(2-pyridylmethyl)sulfinyl]indeno(5,6-d)imidazol-6(1H)-one | 2.7 g, 42.3% | CC1(C(C(C2=CC=3NC(=NC3C=C12)S(=O)CC1=NC=CC=C1)(C)C)=O)C | C20H21N3O2S
